US06703347B2
Preparation of N-(4-chloro-3-methylisothiazol-5-yl)-2-[2-(2,2-dimethylpropyl)benzoxazol-5-yl]-2-fluoropropionamide
5-Amino-4-chloro-3-methylisothiazole (0.28 g, 0.00188 mol) was added to a suspension of sodium methoxide (0.24 g, 0.004 mol) in tetrahydrofuran (6 ml) and the mixture was stirred at room temperature for 20 minutes. A solution of methyl 2-[2-(2,2-dimethylpropyl)benzoxazol-5-yl]-2-fluoropropionate (0.50 g, 0.00171 mol) in tetrahydrofuran (2 ml) was added, dropwise, and the mixture was stirred at room temperature for 3 hours. The mixture was diluted with water, acidified with saturated aqueous ammonium chloride solution and extracted with ethyl acetate. The organic extract was dried over anhydrous magnesium sulfate, filtered and the filtrate was evaporated in vacuo. The residue was purified by flash column chromatography on silica gel, eluting with ethyl acetate:hexane 12:88, to give the desired product (0.575 g) as a pale yellow gum.

reactant | 5-Amino-4-chloro-3-methylisothiazole | 0.00188 mol, 0.28 g | NC1=C(C(=NS1)C)Cl | C4H5ClN2S
reactant | sodium methoxide | 0.004 mol, 0.24 g | C[O-].[Na+]
reactant | methyl 2-[2-(2,2-dimethylpropyl)benzoxazol-5-yl]-2-fluoropropionate | 0.00171 mol, 0.50 g | CC(CC=1OC2=C(N1)C=C(C=C2)C(C(=O)OC)(C)F)(C)C | C16H20FNO3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | N-(4-chloro-3-methylisothiazol-5-yl)-2-[2-(2,2-dimethylpropyl)benzoxazol-5-yl]-2-fluoropropionamide | 0.575 g | ClC=1C(=NSC1NC(C(C)(F)C=1C=CC2=C(N=C(O2)CC(C)(C)C)C1)=O)C | C19H21ClFN3O2S
